US08030487B2
Synthesis of Methyl 2-{[4-(2-pyrrolidin-1-ylethoxy)phenyl]amino}pyrimidine-5-carboxylate (Intermediate 61)
100 mL round-bottom flask was charged with methyl 2-aminopyrimidine-5-carboxylate (1.53 g, 10.0 mmol), 1-[2-(4-bromo-phenoxy)-ethyl]-pyrrolidine (4.05 g, 15.0 mmol), Pd2(dba)3 (366 mg, 0.4 mmol), XantPhos (694 mg, 1.2 mmol), Cs2CO3 (6.51 g, 20.0 mmol) and anhydrous dioxane (70 mL). The mixture was purged with argon gas for 15 min, and then refluxed under argon atmosphere for 2 days. After cooling to room temperature, the reaction mixture was partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc (3×100 mL). Combined EtOAc solutions were washed with H2O (2×100 mL), brine (2×100 mL) and dried over anhydrous Na2SO4. The resulting solution was concentrated in vacuo with ca. 15 g of silica gel. The loaded silica gel was taken to the ISCO system for further purification (80 g column, solid method, 0% to 20% MeOH gradient in DCM, 40 min method). Fractions, containing the product, were combined and concentrated in vacuo to give a yellow solid. The solid was re-crystallized from 20 mL of CH3CN to give the title compound as a beige powder (1.61 g, 47% yield).

reactant | methyl 2-aminopyrimidine-5-carboxylate | 10.0 mmol, 1.53 g | NC1=NC=C(C=N1)C(=O)OC | C6H7N3O2
reactant | 1-[2-(4-bromo-phenoxy)-ethyl]-pyrrolidine | 15.0 mmol, 4.05 g | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | XantPhos | 1.2 mmol, 694 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 20.0 mmol, 6.51 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.4 mmol, 366 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | Methyl 2-{[4-(2-pyrrolidin-1-ylethoxy)phenyl]amino}pyrimidine-5-carboxylate | 1.61 g, 47% yield | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NC=C(C=N1)C(=O)OC | C18H22N4O3
